US08563583B2
D. 4-(4-Chlorobenzyloxy)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one
A mixture of 1-chloro-4-(chloromethyl)benzene (26.4 mg, 0.16 mmol), 4-hydroxy-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one Part C (50 mg, 0.16 mmol) and K2CO3 (67.9 mg, 0.49 mmol) in DMF (1.0 mL) was stirred at 100° C. for 90 min The mixture was cooled to RT, filtered and the filtrate was concentrated. The crude product was purified by prep-HPLC (C18 column/Water:MeOH:TFA 90:10:0.1 to 10:90:0.1 gradient) yielding the title compound D-2-4-(4-chlorobenzyloxy)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one D-2 (30 mg, 41.2% yield) as white solid. LC/MS 430 (M+H)+, tR 0.93 min (method 5); 1H NMR (400 MHz, Chloroform-D) δ ppm 7.32-7.44 (4H, m), 7.24-7.28 (1H, m), 6.96 (1H, d, J=8.53 Hz), 6.80-6.91 (2H, m), 6.06-6.18 (2H, m), 5.03 (2H, s), 3.85 (5H, d, J=1.76 Hz), 1.35 (6H, s).

reactant | 1-chloro-4-(chloromethyl)benzene | 0.16 mmol, 26.4 mg | ClC1=CC=C(C=C1)CCl | C7H6Cl2
reactant | 4-hydroxy-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one | OC1=CC(N(C=C1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C16H19NO5
reactant | K2CO3 | 0.49 mmol, 67.9 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 4-(4-Chlorobenzyloxy)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one | ClC1=CC=C(COC2=CC(N(C=C2)C2=CC(=C(C=C2)OCC(C)(C)O)OC)=O)C=C1 | C23H24ClNO5
